US06809097B1
A solution of 4-chloro-6-hydroxy-7-methoxyquinoline (3.0 g, 14 mmol) and 4-chloro-2-fluoroaniline (3.5 g, 23 mmol) in cyclohexanol (100 ml) containing 1M ethereal hydrogen chloride (16 ml) was heated at 155° C. for 18 hours. After cooling the mixture was diluted with ether and isohexanes and the precipitate was collected by filtration. The crude product was dissolved in a mixture of methylene chloride/methanol/ammonia (100/10/1) and silica (10 g) was added. The solvent was removed by evaporation and the resulting powder was purified by flash chromatography eluting with methylene chloride/methanol/ammonia (95/5/1 increasing to 80/20/1) to give 4-(4-chloro-2-fluoroanilino)-6-hydroxy-7-methoxyquinoline (1.12 g, 25%).

reactant | 4-chloro-6-hydroxy-7-methoxyquinoline | 14 mmol, 3.0 g | ClC1=CC=NC2=CC(=C(C=C12)O)OC | C10H8ClNO2
reactant | 4-chloro-2-fluoroaniline | 23 mmol, 3.5 g | ClC1=CC(=C(N)C=C1)F | C6H5ClFN
reactant | hydrogen chloride | 1M, 16 ml | Cl | ClH
solvent | cyclohexanol | 100 ml | C1(CCCCC1)O | C6H12O
solvent | ether | CCOCC | C4H10O
product | 4-(4-chloro-2-fluoroanilino)-6-hydroxy-7-methoxyquinoline | 1.12 g, 25% | ClC1=CC(=C(NC2=CC=NC3=CC(=C(C=C23)O)OC)C=C1)F | C16H12ClFN2O2
